US05972975
Sodium hydride (52 mg of 60% oil dispersion, 1.30 mmol) was added to a solution of 310 mg (1.43 mmol) of diethyl acetamidomalonate in 2.0 mL of N,N-dimethylformamide. After 30 min, 72 mg (0.20 mmol) of tetrabutylammonium iodide was added followed by 200 mg (0.65 mmol) of 6 -(2-methanesulfonyloxyethyl)-4-methyl-2-(2,5-dimethylpyrrol-1-yl)pyridine in 1.0 mL of N,N-dimethylformamide. The reaction was stirred at room temperature for 30 min, at 60° C. for 20 h, and at room temperature for 3 d. The reaction was diluted with 30. mL of ethyl acetate and washed with 15 mL each of saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride. The aqueous layers were extracted in succession with 30 mL of ethyl acetate. The combined organic layers were dried (sodium sulfate), decanted, and evaporated. The crude product was purified by flash column chromatography on 15 g of silica gel, eluting with 300 mL of 10% ethyl acetate in dichloromethane to give 243 mg (87% yield) of diethyl 2-acetamido-2-(2-(6-amino-4-methylpyrid-2-yl)ethyl)malonate as a tan solid.

reactant | Sodium hydride | 1.30 mmol, 52 mg | [H-].[Na+]
reactant | diethyl acetamidomalonate | 1.43 mmol, 310 mg | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | 6 -(2-methanesulfonyloxyethyl)-4-methyl-2-(2,5-dimethylpyrrol-1-yl)pyridine | 0.65 mmol, 200 mg | CS(=O)(=O)OCCC1=CC(=CC(=N1)N1C(=CC=C1C)C)C | C15H20N2O3S
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | 0.20 mmol, 72 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | diethyl 2-acetamido-2-(2-(6-amino-4-methylpyrid-2-yl)ethyl)malonate | 243 mg, 87% yield | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CCC1=NC(=CC(=C1)C)N | C17H25N3O5
